US04388243
(1) Synthesis of 1α,3β,25-triacetoxycholesta-5,7-diene
To a solution of 1α,3β,25-triacetoxycholest-5-ene (544 mg, 1 m mole) in dry hexane (10 m), 1,3-dibromo-5,5-dimethylhydantoin (172 mg, 0.6 m moles) was added dropwise under stirring and heating at oil bath temperature of 95° C., and the mixture was continued to react under the irradiation of infrared rays for 15 minutes. The reaction mixture was cooled, and the resulting precipitate was removed by filtration, the filtrate was concentrated at reduced pressure at 40° C. to afford a residual product. Xylene was added to this substance to form a solution. The resulting solution was added dropwise to a solution held at 170° C. of s-collidine (2.5 ml) in dry xylene (3 ml), and the reaction was carried out for additional 20 minutes. After the reaction, the resulting precipitate was removed by filtration and the filtrate was concentrated under reduced pressure at 40° C. to give residual product. The product was dissolved in ethylacetate (20 ml). The ethylacetate solution was washed with 1 N hydrochloric acid (3×10 ml), saturated sodium bicarbonate and water, and dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to give 473 mg of residual product.

reactant | 1α,3β,25-triacetoxycholest-5-ene | 544 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)OC(C)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H52O6
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 172 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | s-collidine | 2.5 ml | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | hexane | CCCCCC | C6H14
solvent | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethylacetate | 20 ml | C(C)OC(C)=O | C4H8O2
product | 1α,3β,25-triacetoxycholesta-5,7-diene | 473 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)OC(C)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H50O6
